US08258134B2
A solution of 3-cyclopentyl-2-(4-iodo-6-oxo-6H-pyridazin-1-yl)-propionic acid methyl ester (0.38 g, 1 mmol) in N,N-dimethylformamide (10 mL) was treated with 3-fluoro-pyridin-2-ol (0.15 g, 1 mmol) and potassium carbonate (0.16 g, 1.2 mmol). The reaction was heated at 120° C. for 4 h and then concentrated in vacuo. The residue was partitioned between water and methylene chloride. The aqueous layer was back extracted with methylene chloride. The combined organics were washed with a saturated aqueous sodium chloride solution, and then concentrated in vacuo. Chromatography (1/1 ethyl acetate/petroleum ether) afforded 3-cyclopentyl-2-[4-(3-fluoro-pyridin-2-yloxy)-6-oxo-6H-pyridazin-1-yl]-propionic acid methyl ester (0.19 g, 53%).

reactant | 3-cyclopentyl-2-(4-iodo-6-oxo-6H-pyridazin-1-yl)-propionic acid methyl ester | 1 mmol, 0.38 g | COC(C(CC1CCCC1)N1N=CC(=CC1=O)I)=O | C13H17IN2O3
reactant | 3-fluoro-pyridin-2-ol | 1 mmol, 0.15 g | FC=1C(=NC=CC1)O | C5H4FNO
reactant | potassium carbonate | 1.2 mmol, 0.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-cyclopentyl-2-[4-(3-fluoro-pyridin-2-yloxy)-6-oxo-6H-pyridazin-1-yl]-propionic acid methyl ester | 0.19 g, 53% | COC(C(CC1CCCC1)N1N=CC(=CC1=O)OC1=NC=CC=C1F)=O | C18H20FN3O4
